US08530470B2
2-(benzylamino)ethanol (207 ml, 1454.97 mmol) and (R)-2-methyloxirane (153 ml, 2182.46 mmol) were mixed together and pumped at a flow rate of 1 mL/min through a 10 mL loop heated at 150° C. in a flow chemistry system. The back pressure regulator was adjusted in order to achieve a pressure inside the loop of 250 psi. Excess of propylene oxide was removed under vacuum to afford (R)-1-(benzyl(2-hydroxyethyl)amino)propan-2-ol (300 g, 99%) as a colourless liquid. Mass Spectrum: m/z [M+H]+=210.

reactant | 2-(benzylamino)ethanol | 1454.97 mmol, 207 ml | C(C1=CC=CC=C1)NCCO | C9H13NO
reactant | (R)-2-methyloxirane | 2182.46 mmol, 153 ml | C[C@H]1OC1 | C3H6O
product | (R)-1-(benzyl(2-hydroxyethyl)amino)propan-2-ol | 300 g, 99% | C(C1=CC=CC=C1)N(C[C@@H](C)O)CCO | C12H19NO2
